US07645789B2
To a solution of 1-(3,4-bis-benzyloxy-phenyl)-cyclopropanecarbonitrile (10 g, 28 mmol) in MeOH (50 mL) was added Pd/C (0.5 g) under nitrogen atmosphere. The mixture was stirred under hydrogen atmosphere (1 atm) at room temperature for 4 h. The catalyst was filtered off through a celite pad and the filtrate was evaporated under vacuum to give 1-(3,4-dihydroxy-phenyl)-cyclopropanecarbonitrile (4.5 g, 92%). 1H NMR (DMSO 400 MHz) δ 9.06 (br s, 2H), 6.67-6.71 (m, 2H), 6.54 (dd, J=2.4, 8.4 Hz, 1H), 1.60-1.57 (m, 2H), 1.30-1.27 (m, 2H).

reactant | 1-(3,4-bis-benzyloxy-phenyl)-cyclopropanecarbonitrile | 28 mmol, 10 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C1(CC1)C#N | C24H21NO2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 1-(3,4-dihydroxy-phenyl)-cyclopropanecarbonitrile | 4.5 g, 92% | OC=1C=C(C=CC1O)C1(CC1)C#N | C10H9NO2
